US08802679B2
To 3-chloro-4-{4-[5-(3-{[glycyl(methyl)amino]methyl}phenyl)pyrimidin-2-yl]piperazin-1-yl}benzoic acid dihydrochloride (3.0 g) were added THF (30 ml) and H2O (15 ml). To this mixture was added 1 N sodium hydroxide (10.6 ml), followed by stirring for 30 minutes. The precipitated solid was filtered and washed with water. The obtained product was dried at 50° C. under reduced pressure to obtain 3-chloro-4-{4-[5-(3-{[glycyl(methyl)amino]methyl}phenyl)pyrimidin-2-yl]piperazin-1-yl}benzoic acid (2.1 g) as a colorless solid.

reactant | 3-chloro-4-{4-[5-(3-{[glycyl(methyl)amino]methyl}phenyl)pyrimidin-2-yl]piperazin-1-yl}benzoic acid dihydrochloride | 3.0 g | Cl.Cl.ClC=1C=C(C(=O)O)C=CC1N1CCN(CC1)C1=NC=C(C=N1)C1=CC(=CC=C1)CN(C)C(CN)=O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1 N, 10.6 ml | [OH-].[Na+]
solvent | H2O | 15 ml | O | H2O
product | 3-chloro-4-{4-[5-(3-{[glycyl(methyl)amino]methyl}phenyl)pyrimidin-2-yl]piperazin-1-yl}benzoic acid | 2.1 g | ClC=1C=C(C(=O)O)C=CC1N1CCN(CC1)C1=NC=C(C=N1)C1=CC(=CC=C1)CN(C)C(CN)=O | C25H27ClN6O3
